US08420661B2
5-iodopyridin-2-amine (1 g, 4.55 mmol) was dissolved in DMF (5 ml) and 3,3-dimethyldihydrofuran-2,5-dione (1.28 g, 10.0 mmol, 2.2 equiv.) was added at room temperature. The mixture was stirred for 3 hr at 150° C. The reaction mixture was evaporated to dryness and loaded directly to a silica gel column. The crude material was purified by flash chromatography on silica gel (20 gr, ethyl acetate/heptane gradient, 0:100 to 100:0). The desired 1-(5-iodopyridin-2-yl)-3,3-dimethylpyrrolidine-2,5-dione (1.3 g, 3.94 mmol, 86.6% yield) was obtained as a yellow solid, MS: m/e=331.0 (M+H+).

reactant | 5-iodopyridin-2-amine | 4.55 mmol, 1 g | IC=1C=CC(=NC1)N | C5H5IN2
reactant | 3,3-dimethyldihydrofuran-2,5-dione | 10.0 mmol, 1.28 g, 2.2 equiv. | CC1(C(OC(C1)=O)=O)C | C6H8O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(5-iodopyridin-2-yl)-3,3-dimethylpyrrolidine-2,5-dione | 3.94 mmol, 1.3 g, 86.6% yield | IC=1C=CC(=NC1)N1C(C(CC1=O)(C)C)=O | C11H11IN2O2
